US07256207B2
Step A: Preparation of 1-(5,6-Dichloro-benzimidazol-1-yl)-3,3-dimethyl-butan-2-ol.
A large (2-5 mL) microwave reactor flask was charged with 5,6-dichlorobenzimidazole (571 mg, 3.1 mmol), 1,2-epoxy-3,3-dimethylbutane (307 mg, 3.1 mmol), powdered anhydrous potassium carbonate (424 mg, 3.1 mmol) and DMF (1.5 mL). The reaction was then heated in a microwave reactor for 6 minutes at 160° C. The reaction was then diluted with ethyl acetate and extracted with water three times. The organics were dried over MgSO4 and the solvent was removed. The residue was crystallized from CH2Cl2 to afford 653 mg (73%) of product as a white solid: 1H NMR (DMSO, 400 MHz) δ 1.06 (s, 9H), 3.47 (dd, 1H, J=2.0, J2=10.4), 4.08 (dd, 1H, J1=10.5, J2=14.4), 4.47 (dd, 1H, J1=2.0, J2=14.4), 7.75 (s, 1H), 7.79 (s, 1H), 8.23 (s, 1H); HPLC-MS calcd. for C21H22Cl2N4O2 (M+H+) 287.1, found 287.3.

reactant | 5,6-dichlorobenzimidazole | 3.1 mmol, 571 mg | ClC1=CC2=C(N=CN2)C=C1Cl | C7H4Cl2N2
reactant | 1,2-epoxy-3,3-dimethylbutane | 3.1 mmol, 307 mg | O1CC1C(C)(C)C | C6H12O
reactant | potassium carbonate | 3.1 mmol, 424 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5,6-Dichloro-benzimidazol-1-yl)-3,3-dimethyl-butan-2-ol | 653 mg, 73% | ClC1=CC2=C(N(C=N2)CC(C(C)(C)C)O)C=C1Cl | C13H16Cl2N2O
